US07078425B2
1-Benzenesulfonyl-6-chloro-7-methoxy-4-methyl-1H-indazole (2.45 g, 7.3 mmol), recrystallized N-bromosuccinimide (1.36 g, 7.6 mmol) and benzoyl peroxide (90 mg, 0.37 mmol) are dissolved in carbon tetrachloride (25 mL). The reaction is degassed and then placed in a 80° C. bath. The reaction is heated (about 2 h) until no starting material remains by TLC analysis (PhMe). The reaction is cooled, diluted with EtOAc, and washed with water. The solution is dried with MgSO4, concentrated and purified by column chromatography (silica, PhMe) to provide 1-benzenesulfonyl-4-bromomethyl-6-chloro-7-methoxy-1H-indazole.

reactant | 1-Benzenesulfonyl-6-chloro-7-methoxy-4-methyl-1H-indazole | 7.3 mmol, 2.45 g | C1(=CC=CC=C1)S(=O)(=O)N1N=CC2=C(C=C(C(=C12)OC)Cl)C | C15H13ClN2O3S
reactant | N-bromosuccinimide | 7.6 mmol, 1.36 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | 0.37 mmol, 90 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | carbon tetrachloride | 25 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 1-benzenesulfonyl-4-bromomethyl-6-chloro-7-methoxy-1H-indazole | C1(=CC=CC=C1)S(=O)(=O)N1N=CC2=C(C=C(C(=C12)OC)Cl)CBr | C15H12BrClN2O3S
